US07427632B2
3-Chloro-N-[(R)-1-phenyl-2-[3-(piperidin-1-yl)propoxy]-ethyl]-1H-indole-6-carboxamide
Using coupling method A, (R)-1-phenyl-2-[3-(piperidin-1-yl)propoxy]ethylamine (218 mg, 0.83 mmol) and 3-chloro-indole-6-carboxylic acid (179 mg, 0.91 mmol) afforded, after purification (SiO2: 50% EtOAc in hexane), 115 mg (32%) of the title compound.

reactant | (R)-1-phenyl-2-[3-(piperidin-1-yl)propoxy]ethylamine | 0.83 mmol, 218 mg | C1(=CC=CC=C1)[C@H](COCCCN1CCCCC1)N | C16H26N2O
reactant | 3-chloro-indole-6-carboxylic acid | 0.91 mmol, 179 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 3-Chloro-N-[(R)-1-phenyl-2-[3-(piperidin-1-yl)propoxy]-ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCCCN1CCCCC1)C1=CC=CC=C1 | C25H30ClN3O2
